* source I-NAND
M_M7         OUT IN1 N88382 N88382 CMOSP  
+ L=.18u  
+ W=.2u         
M_M8         OUT IN2 N88382 N88382 CMOSP  
+ L=.18u  
+ W=.2u         
M_M12         OUT IN4 N88382 N88382 CMOSP  
+ L=.18u  
+ W=.2u         
V_V3         IN3 0  
+SIN 1.5 1.5 500k 0 0 0
V_V4         IN4 0  
+SIN 1.5 1.5 500k 0 0 0
M_M9         OUT IN3 N88382 N88382 CMOSP  
+ L=.18u  
+ W=.2u         
V_VDD1         N88382 0 3.3
M_M1         OUT IN1 N88766 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M10         N88906 IN3 N88946 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_V1         IN1 0  
+SIN 1.5 1.5 1Meg 0 0 0
M_M3         N88766 IN2 N88906 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_V2         IN2 0  
+SIN 1.5 1.5 500k 0 0 0
M_M11         N88946 IN4 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
